US04009181
To a stirred solution of 5.5 g. of 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester in 40 ml. of dimethylformamide was added 0.9 g. of 54.5 percent sodium hydride in mineral oil. After the mixture had stirred 1 hour at room temperature, 3.5 g. of p-chlorobenzoyl chloride in 10 ml. of dimethylformamide was added dropwise over the course of 10 minutes. The mixture was then stirred for 5 hours between 60°-70° and then poured onto ice (500 g.). The mixture was extracted with ether (3 × 150 ml.) and the ether was in turn extracted with water (5 × 100 ml.). After drying the ether solution over sodium sulfate, the desiccant was removed by filtration and the ether was evaporated. Upon recrystallization of the residue with ethyl acetate, 3.8 g. of product was obtained, m.p. 129°-132° . Following two further recrystallizations from methanol, a yield of 2.3 g. of 6-chloro-9-(p-chlorobenzoyl)-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester was obtained, m.p. 136°-137°.

reactant | 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | C15H16ClNO2
reactant | sodium hydride | [H-].[Na+]
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-chloro-9-(p-chlorobenzoyl)-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2N(C3=CC=C(C=C3C2CC1)Cl)C(C1=CC=C(C=C1)Cl)=O | C22H19Cl2NO3
